US07923450B2
c) 2-[1-Dimethylamino-meth-(Z)-ylidene]-6-(3,4,5-trifluoro-phenyl)-cyclohexanone
2-(3,4,5-Trifluoro-phenyl)-cyclohexanone (100 mg, 0.44 mmol) was reacted with tert.-butoxy-bis-(dimethylamino)-methane using in analogous manner the procedure described in example 45a) to give crude title compound (123 mg) as a brown oil which was used directly in the next step. MS ISP (m/e): 284.2 (100) [(M+H)+].

reactant | 2-(3,4,5-Trifluoro-phenyl)-cyclohexanone | 0.44 mmol, 100 mg | FC=1C=C(C=C(C1F)F)C1C(CCCC1)=O | C12H11F3O
reactant | tert.-butoxy-bis-(dimethylamino)-methane | C(C)(C)(C)OC(N(C)C)N(C)C | C9H22N2O
product | 2-[1-Dimethylamino-meth-(Z)-ylidene]-6-(3,4,5-trifluoro-phenyl)-cyclohexanone | 123 mg | CN(\C=C\1/C(C(CCC1)C1=CC(=C(C(=C1)F)F)F)=O)C | C15H16F3NO
